US05811540
To the phenyl 2,3-dideoxy-1-thio-D-glycero-pentofuranoside (465 mg, 2.21 mmol) was added dimethylformamide (10 ml) under an argon atmosphere and then, sodium hydride (50% oil, 230 mg) having been washed with hexane was added thereto. The resultant mixture was allowed to react at room temperature for 1 hour and cooled to 0° C. To the reaction mixture was added 2-chloro-4-methoxypyridine (519 mg) and a reaction was allowed to proceed for 3 hours. The resultant mixture was gradually heated to room temperature, so that a reaction is further allowed to proceed for 12 hours. After cooling the resultant mixture to 0° C., water and ether were added thereto to thereby extract the organic phase of the mixture with the ether. The thus obtained organic phase was dried over anhydrous magnesium sulfate and concentrated by evaporation of the ether under reduced pressure. The resultant concentrate was subjected to silica gel thin-layer chromatography (developing solvent; ether:hexane=1:2 to 3:1) to thereby obtain 631 mg of phenyl 2,3-dideoxy-5-O-(4-methoxy-2-pyrimidyl)-1-thio-D-glycero-pentofuranoside (yield: 90%). The structure of this compound was confirmed by 1H NMR. The 1H NMR spectrum is shown in FIG. 1, and the 1H NMR data is as follows:

reactant | phenyl 2,3-dideoxy-1-thio-D-glycero-pentofuranoside | 2.21 mmol, 465 mg | S(C1CC[C@H](O1)CO)C1=CC=CC=C1 | C11H14O2S
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | 2-chloro-4-methoxypyridine | 519 mg | ClC1=NC=CC(=C1)OC | C6H6ClNO
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | phenyl 2,3-dideoxy-5-O-(4-methoxy-2-pyrimidyl)-1-thio-D-glycero-pentofuranoside | 631 mg, yield: 90% | COC1=NC(=NC=C1)OC[C@@H]1CCC(SC2=CC=CC=C2)O1 | C16H18N2O3S
